US05204353
2.8 g (10 mmol) of 5-amino-7-chloro-3-(2-fluorobenzyl)-3H-1,2,3-triazolo[4,5-d]pyrimidine are dissolved in 150 ml of ethanol while heating at 40°-50°, and 10 ml of an aqueous solution of dimethylamine (40%) is added to the resulting solution. The reaction mixture is left to stand at room temperature for 2 hours. The precipitated product is then filtered off with suction and washed with water. Recrystallisation from ethanol yields 5-amino-7-(N,N-dimethylamino)-3-(2-fluorobenzyl)-3H-1,2,3-triazolo[4,5-d]pyrimidine having a melting point of 165°-167°.

reactant | 5-amino-7-chloro-3-(2-fluorobenzyl)-3H-1,2,3-triazolo[4,5-d]pyrimidine | 10 mmol, 2.8 g | NC=1N=C(C2=C(N1)N(N=N2)CC2=C(C=CC=C2)F)Cl | C11H8ClFN6
reactant | dimethylamine | CNC | C2H7N
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 5-amino-7-(N,N-dimethylamino)-3-(2-fluorobenzyl)-3H-1,2,3-triazolo[4,5-d]pyrimidine | NC=1N=C(C2=C(N1)N(N=N2)CC2=C(C=CC=C2)F)N(C)C | C13H14FN7
